.SUBCKT IR2110_ VDD HIN SD LIN VSS HO VB VS VCC COM LO 
C1 Hin Vss 10p Rpar=750k
D1 Hin Vdd Dd
D2 Vss Hin Dd
R1 Vdd 1 25e6
S1 1 Vss 4 0 Si
A1 Hin 1 0 0 0 0 4 0 SCHMITT Vt=0 Vh=0 Trise=50n Tfall=10n Td=60n Tripdt=10n
C2 SD Vss 10p Rpar=750k
D3 SD Vdd Dd
D4 Vss SD Dd
R2 Vdd 2 25e6
S2 2 Vss 5 0 Si
A2 SD 2 0 0 0 0 5 0 SCHMITT Vt=0 Vh=0 Td=80n Tripdt=20n
C3 Lin Vss 10p Rpar=750k
D5 Lin Vdd Dd
D6 Vss Lin Dd
R3 Vdd 3 25e6
S3 3 Vss 6 0 Si
A3 Lin 3 0 0 0 0 6 0 SCHMITT Vt=0 Vh=0 Trise=50n Tfall=10n Td=60n Tripdt=10n
A4 0 0 4 0 5 0 7 0 Dflop
A5 0 0 6 0 5 0 8 0 Dflop
A6 Vb Vs 0 0 0 0 9 0 SCHMITT Vt=8.35 Vh=.15 Td=50n Tripdt=10n
A7 9 0 4 7 10 12 11 0 AND Tau=18n Tripdt=5n
S4 Ho Vb 11 0 SH
S5 Ho Vs 12 0 SL
C4 Vb Ho 22p
C5 Ho Vs 22p Rpar=100k
D7 Ho Vb Dd
D8 Vs Ho Dd
D9 Com Vb 525V
D10 Vs Vb 25V
D11 Vss Vdd 25Vdd
D12 Vss Vcc 25V
D13 Com Vcc 25V
A8 Vcc Com 0 0 0 0 10 0 SCHMITT Vt=8.35 Vh=.15 Td=50n Tripdt=10n
A9 10 8 0 0 6 14 13 0 AND Tau=18n Tripdt=5n
S6 Lo Vcc 13 0 SH
S7 Lo Com 14 0 SL
C6 Vcc Lo 22p
C7 Lo Com 22p Rpar=100k
D14 Lo Vcc Dd
D15 Com Lo Dd
.model Dd D(Ron=.5 Vfwd=.5)
.model 25V D(Ron=.5 Vfwd=.5 Vrev=25.2 Roff=120k)
.model 25Vdd D(Ron=.5 Vfwd=.5 Vrev=25.2 Roff=1e6)
.model 525V D(Ron=.5 Vfwd=.5 Vrev=525 Roff=1e7)
.model Si SW(Vt=.5 Vh=-.1 Ron=15e6 Roff=41e6)
.model SH SW(Vt=.5 Vh=-.5 Ron=5 Ilimit=2.5 Vser=1.2)
.model SL SW(Vt=.5 Vh=-.5 Ron=3 Ilimit=2.5)
.ends
